US07268159B2
1-(4-Nitro-benzyl)-1H-indole-5-carboxylic acid methyl ester was prepared from 1H-indole-5-carboxylic acid methyl ester and 4-nitrobenzyl bromide followed the procedure of Example 3 Step 1 as a yellow poder: 1H NMR (DMSO-d6) δ 3.84 (s, 3H), 5.67 (s, 2H), 6.71 (dd, J=3.2, 0.8 Hz, 1H), 7.40 (d, J=8.8 Hz, 2H), 7.54 (d, J=8.7 Hz, 1H), 7.67 (d, J=0.8 Hz, 1H), 7.73 (dd, J=8.8, 1.7 Hz, 1H), 8.19 (d, J=8.8 Hz, 2H), 8.29 (d, J=1.0 Hz, 1H); MS (ESI) m/z 311 (MH+), 309 ([M−H]−); HRMS calcd for C17H15N2O4: 311.1030; found (ESI+): 311.1021.

reactant | 1H-indole-5-carboxylic acid methyl ester | COC(=O)C=1C=C2C=CNC2=CC1 | C10H9NO2
reactant | 4-nitrobenzyl bromide | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
product | 1-(4-Nitro-benzyl)-1H-indole-5-carboxylic acid methyl ester | COC(=O)C=1C=C2C=CN(C2=CC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C17H14N2O4
